US07560558B2
Compound 418: (6,7-Dimethoxy-quinolin-4-yl)-quinolin-3-yl-amine
4-Chloro-6,7-dimethoxyquinoline (88 mg) and 3-aminoquinoline (72 mg) were dissolved in dimethylacetamide (1 ml) to prepare a solution. 60% sodium hydride (46 mg) was added to the solution under ice cooling. The mixture was stirred at 80° C. for 2 hr. Water was then added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using methanol-chloroform to give the title compound (37 mg, yield 28%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 88 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 3-aminoquinoline | 72 mg | NC=1C=NC2=CC=CC=C2C1 | C9H8N2
reactant | sodium hydride | 46 mg | [H-].[Na+]
reactant | Water | O | H2O
solvent | dimethylacetamide | 1 ml | CC(=O)N(C)C | C4H9NO
product | (6,7-Dimethoxy-quinolin-4-yl)-quinolin-3-yl-amine | 37 mg, yield 28% | COC=1C=C2C(=CC=NC2=CC1OC)NC=1C=NC2=CC=CC=C2C1 | C20H17N3O2
